US06346527B1
Under nitrogen atmosphere, phosphorus pentachloride (1.6 g) was added to a mixture of methyl 2,3-dihydro-9-hydroxymethyl-1-benzoxepin-4-carboxylate (1.2 g) and pyridine (0.62 ml) in dichloromethane (24 ml) under ice-cooling and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture was added a mixture of ethyl acetate and water. The separated organic layer was washed with saturated aqueous sodium bicarbonate and water. The organic layer was dried over magnesium sulfate and evaporated in vacuo to give methyl 2,3-dihydro-9-chloromethyl-1-benzoxepin-4-carboxylate (1.19 g) as an oil.

reactant | phosphorus pentachloride | 1.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methyl 2,3-dihydro-9-hydroxymethyl-1-benzoxepin-4-carboxylate | 1.2 g | OCC1=CC=CC=2C=C(CCOC21)C(=O)OC | C13H14O4
reactant | pyridine | 0.62 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 2,3-dihydro-9-chloromethyl-1-benzoxepin-4-carboxylate | 1.19 g | ClCC1=CC=CC=2C=C(CCOC21)C(=O)OC | C13H13ClO3
